US04166120
A sample of 5-chloro-2-fluorobenzyl bromide is converted to its Grignard reagent which is reacted with N-benzyl-4-piperidone to provide 1-benzyl-4-(5-chloro-2-fluorobenzyl)-4-piperidinol. The above is performed in a manner consistent with the procedure of Example 2A. This product is distilled at 210° C., 0.15 mm giving an orange oil. The oil is dissolved in ether where it is converted to its hydrochloride salt which is recrystallized thrice from an ethyl alcohol-ether mixture to provide the product, 1-benzyl-4-(5-chloro-2-fluorobenzyl)-4-piperidinol hydrochloride, mp 217°-219° C.

reactant | 5-chloro-2-fluorobenzyl bromide | ClC=1C=CC(=C(CBr)C1)F | C7H5BrClF
reactant | N-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | 1-benzyl-4-(5-chloro-2-fluorobenzyl)-4-piperidinol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=C(C=CC(=C1)Cl)F | C19H21ClFNO
